US06166006
To a solution cooled at -78° C. of 2-bromopyridine (10.0 g) in diethylether (200 ml) was dropwise added 1.6M butyllithium hexane solution (39.6 ml) for 10 minutes. The mixture was stirred at -78° C. for 1 hour, and to the mixture was dropwise added a solution of 4-nitrobenzaldehyde in THF (50 ml). The reaction mixture was stirred at -78° C. for 3 hours, and to the mixture was added water (100 ml). The mixture was extracted with ethyl acetate, and the organic layer was washed with saturated sodium chloride solution, dried with anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was separated and purified with column chromatography (ethyl acetate/toluene=1/2) and re-crystallized from duisopropylether to give (4-nitrophenyl) -(2-pyridyl)methanol (4.50 g) as orange crystals.

reactant | 2-bromopyridine | 10.0 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | butyllithium hexane | 1.6M, 39.6 ml | CCCCCC.C(CCC)[Li]
reactant | 4-nitrobenzaldehyde | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | water | 100 ml | O | H2O
solvent | diethylether | 200 ml | C(C)OCC | C4H10O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (4-nitrophenyl) -(2-pyridyl)methanol | 4.50 g | [N+](=O)([O-])C1=CC=C(C=C1)C(O)C1=NC=CC=C1 | C12H10N2O3
